US06908931B2
N-acetyl 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline.
A stirred solution of 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline (1.8942 g, 5.0720 mmoles) in methylene chloride (15 mL) at 0° C. was treated with triethylamine (0.707 mL, 1.5 equiv.) and acetic anhydride (0.844 mL, 1.5 equiv.). After 2 hours at room temperature, The mixture was diluted with ether and washed with 1M sodium hydroxide (2×), water, and brine. The organic phase was dried over sodium sulfate and evaporated to give the product as a colorless foam (2.0178 g, 96%). 1H-NMR (CDCl3) δ (approx. 1.8:1 ratio of rotomers) 1.65 (rotomer A, s, 3H), 1.96 (rotomer B, s, 3H), 2.35 (rotomer B, m, 1H), 2.54 (rotomer A, m, 1H), 2.67 (rotomer A, m, 1H), 2.80 (rotomers A & B, m, 1H), 2.94 (rotomer A, m, 1H), 3.21 (rotomer A, m, 1H), 3.43 (rotomers A & B, m, 1H), 3.77 (rotomer B, s, 3H), 3.88 (rotomers A & B, s, 3H), 3.92 (rotomer A, s, 3H), 4.03 (rotomer A, m, 1H), 4.12 (rotomer B, t, 1H), 4.60 (rotomer B, m, 1H), 5.68 (rotomer A, m, 1H), 6.38 (rotomer B, s, 1H), 6.53 (rotomer A, s, 1H), 6.60 (rotomer B, s, 1H), 6.62 (rotomer A, s, 1H), 7.32 (rotomers A & B, m, 10H). Mass spec. 416.4 (MH)+. Anal. Calc. for C27H29NO3-2/3H2O: C-75.85, H-7.15, N-3.28. Found: C-75.89, H-7.03, N-3.24.

reactant | 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 5.0720 mmoles, 1.8942 g | C1(=CC=CC=C1)C(CC1NCCC2=CC(=C(C=C12)OC)OC)C1=CC=CC=C1 | C25H27NO2
reactant | triethylamine | 0.707 mL, 1.5 equiv. | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.844 mL, 1.5 equiv. | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | N-acetyl 1-(2,2-diphenyleth-1-yl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 2.0178 g, 96% | C(C)(=O)N1C(C2=CC(=C(C=C2CC1)OC)OC)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29NO3
